US07767679B2
TEA (0.088 mol, 12.4 ml) was added at 10° C. to a solution of 4-amino-1-piperidinecarboxylic acid, ethyl ester (0.044 mol, 7.6 g) in DCM (110 ml) under N2 flow. A solution of 2-naphtalenesulfonyl chloride (0.044 mol) in DCM (50 ml) was added dropwise. The mixture was stirred at 10° C. for 1 hour and 30 minutes, poured out into ice water and extracted with DCM. The organic layer was separated, dried (MgSO4), filtered, and the solvent was evaporated. The residue was taken up in diethylether, the precipitate was filtered and dried yielding 13.8 g of 4-[(2-naphthalenylsulfonyl)amino]-1-piperidinecarboxylic acid, ethyl ester, melting point 128° C., intermediate 1.

reactant | 4-amino-1-piperidinecarboxylic acid, ethyl ester | 0.044 mol, 7.6 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | 2-naphtalenesulfonyl chloride | 0.044 mol | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)Cl | C10H7ClO2S
solvent | DCM | 110 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
product | 4-[(2-naphthalenylsulfonyl)amino]-1-piperidinecarboxylic acid, ethyl ester | 13.8 g | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)NC1CCN(CC1)C(=O)OCC | C18H22N2O4S
